US07985491B2
Under the atmosphere of argon, 20 g of 3,5-dibromobiphenyl synthesized from 3,5-dibromoiodobenzene and phenylboronic acid was dissolved into 200 ml of anhydrous THF, and the resultant solution was cooled at −70° C. To the cooled solution, 42 ml of a 1.6 M hexane solution of normal-butyllithium was added dropwise, and the resultant mixture was stirred for 30 minutes. Then, 19 g of 1,2-diiodoethane was added, and the obtained mixture was stirred for 5 hours. After the mixture was left standing for one night, water and methylene chloride were added. Then, sodium hydrogensulfite was added until dark brown color of the reaction mixture turned to yellow color. The organic layer was obtained by extraction, washed with water and a saturated aqueous solution of sodium chloride and dried with anhydrous sodium sulfate, and the solvent was removed using an evaporator. The obtained residue was purified in accordance with the silica gel column chromatography (the developing solvent: hexane), and 19.5 g of 3-bromo-5-iodobiphenyl was obtained as a colorless oil (the yield: 85%).

reactant | 3,5-dibromobiphenyl | 20 g | BrC=1C=C(C=C(C1)Br)C1=CC=CC=C1 | C12H8Br2
reactant | 3,5-dibromoiodobenzene | BrC=1C=C(C=C(C1)Br)I | C6H3Br2I
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | normal-butyllithium | C(CCC)[Li]
reactant | 1,2-diiodoethane | 19 g | ICCI | C2H4I2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | hexane | 1.6 M | CCCCCC | C6H14
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 3-bromo-5-iodobiphenyl | 19.5 g, yield: 85% | BrC=1C=C(C=C(C1)I)C1=CC=CC=C1 | C12H8BrI
